US04578392
2-Isopropyl-3-(1-hydroxy-1-ethyl-2-methylpropyl)pyrazolo[1,5-a]pyridine
To a suspension of 1.32 g of magnesium in 10 ml of dry ether was gradually added a solution of 17 g of ethyl iodide in 15 ml of dry ether with stirring. After the addition was completed, the stirring was continued for an hour at room temperature. To the mixture was gradually added a solution of 2.5 g of 2-isopropyl-3-isobutyrylpyrazolo[1,5-a]pyridine in 10 ml of dry benzene under stirring. The mixture was stirred for an hour at room temperature, treated with 150 ml of aqueous 20% ammonium chloride solution under ice cooling, and extracted with ether. The ether layer was washed with saturated brine, dried over anhydrous sodium sulfate and cencentrated to dryness. The residue was recrystallized from hexane to give 1.5 g (54%) of the desired derivative as pale gray prisms, mp 96°-98° C.

reactant | magnesium | 1.32 g | [Mg] | Mg
reactant | ethyl iodide | 17 g | C(C)I | C2H5I
reactant | 2-isopropyl-3-isobutyrylpyrazolo[1,5-a]pyridine | 2.5 g | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)C)=O | C14H18N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-Isopropyl-3-(1-hydroxy-1-ethyl-2-methylpropyl)pyrazolo[1,5-a]pyridine | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)C)(CC)O | C16H24N2O
